US08562945B2
A solution of PAMA-K (0.600 g, 1.047 mmol) and piperidine (1.0 mL) in DMF (5.0 mL) was stirred at room temperature for 3 hrs. Solvent was evaporated under reduced pressure to give a residue, which was purified by Amberchrom (CG-161C) eluting with MeOH/H2O to give (S)-2-amino-6-((2-tert-butoxy-2-oxoethyl)(pyridin-2-ylmethyl)amino)hexanoic acid (0.256 g, 70%). MS (ESI), 352 (M+H)+.

reactant | (S)-1-(9H-fluoren-9-yl)-14,14-dimethyl-3,12-dioxo-10-(pyridin-2-ylmethyl)-2,13-dioxa-4,10-diazapentadecane-5-carboxylic acid | 1.047 mmol, 0.600 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](CCCCN(CC(OC(C)(C)C)=O)CC1=NC=CC=C1)C(=O)O)=O | C33H39N3O6
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | (S)-2-amino-6-((2-tert-butoxy-2-oxoethyl)(pyridin-2-ylmethyl)amino)hexanoic acid | 0.256 g, 70% | N[C@H](C(=O)O)CCCCN(CC1=NC=CC=C1)CC(=O)OC(C)(C)C | C18H29N3O4
